US09102637B2
(a) ethyl 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxylate
A mixture of 2-naphthalenyl isothiocyanate (0.5 g, 2.7 mmol) and ethyl 2-amino-2-cyanoacetate (0.38 g, 2.97 mmol) in EtOH (16 mL) was heated at 80° C. for 3 h. The reaction mixture was cooled to rt, and the solvent was concentrated in vacuo. The resulting solids were collected and washed with n-Hexane-EtOAc (1:1) to give 565 mg (67% yield) of the titled compound.

reactant | 2-naphthalenyl isothiocyanate | 2.7 mmol, 0.5 g | C1=C(C=CC2=CC=CC=C12)N=C=S | C11H7NS
reactant | ethyl 2-amino-2-cyanoacetate | 2.97 mmol, 0.38 g | NC(C(=O)OCC)C#N | C5H8N2O2
solvent | EtOH | 16 mL | CCO | C2H6O
product | ethyl 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxylate | 565 mg, 67% yield | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)OCC | C16H15N3O2S
